US07030262B2
tert-butyl (1R)-1-(hydroxymethyl)-3-(methylsulfanyl)propylcarbamate
A solution of N-(tert-butoxycarbonyl)-D-methionine (12.47 g, 50 mmol) and sodium bis(2-methoxyethoxy)aluminum hydride (Red-Al®) (50 mmol) in dry toluene (125 mL) was stirred at 0° C. for 30 minutes, then at ambient temperature for 1 hour. The mixture was treated with aqueous Rochelle salt and extracted with diethyl ether. The extract was washed sequentially with brine and aqueous NaHCO3, dried (MgSO4), filtered, and concentrated to provide the desired product (9.05 g).

reactant | N-(tert-butoxycarbonyl)-D-methionine | 50 mmol, 12.47 g | C(C)(C)(C)OC(=O)N[C@H](CCSC)C(=O)O | C10H19NO4S
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | 50 mmol | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (1R)-1-(hydroxymethyl)-3-(methylsulfanyl)propylcarbamate | 9.05 g | OC[C@@H](CCSC)NC(OC(C)(C)C)=O | C10H21NO3S
